US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((5-propyl-1,3,4-oxadiazol-2-yl)methyl)benzenesulfonamide
To a stirred solution of 2-((5-propyl-1,3,4-oxadiazol-2-yl)methyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (430 mg, 1.05 mmol) and 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol (234 mg, 1.57 mmol) in 5 mL of ACN was added pyridine (253 uL, 3.13 mmol) dropwise. The reaction mixture was stirred at room temperature for 16 hours. After the mixture was concentrated, the residue was extracted with ethyl acetate and washed with water, 1N HCl and brine. The organic layer was dried over Na2SO4 and concentrated to give the desired compound as a yellow solid (410 mg, yield 75%).

reactant | 2-((5-propyl-1,3,4-oxadiazol-2-yl)methyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 1.05 mmol, 430 mg | C(CC)C1=NN=C(O1)CC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl | C14H13ClF3N3O4S
reactant | 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol | 1.57 mmol, 234 mg | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | pyridine | 3.13 mmol, 253 uL | N1=CC=CC=C1 | C5H5N
solvent | ACN | 5 mL | C(C)#N | C2H3N
product | 4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((5-propyl-1,3,4-oxadiazol-2-yl)methyl)benzenesulfonamide | 410 mg, yield 75% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CC=1OC(=NN1)CCC | C19H21BN4O5S
